US09447046B2
Preparation 153a: 2-chloro-5-cyclopropylpyridine
To a suspension of 5-bromo-2-chloropyridine (990 mg, 5.15 mmol), cyclopropylboronic acid (893 mg, 10.39 mmol) and Cs2CO3 (5.082 g, 15.45 mmol) in 1,4-dioxane (25 mL) was added Pd(PPh3)4 (601 mg, 0.52 mmol) at r.t. under N2. The reaction was stirred at 100° C. for 1 h. After filtration, the solvent was removed in vacuo, and the residue was purified by silica gel chromatography (PE:EtOAc=50:1) to give 452 mg (57%) of the title compound as a colorless oil. [M+H] Calc'd for C8H8NCl, 154. Found, 154.

reactant | 5-bromo-2-chloropyridine | 5.15 mmol, 990 mg | BrC=1C=CC(=NC1)Cl | C5H3BrClN
reactant | cyclopropylboronic acid | 10.39 mmol, 893 mg | C1(CC1)B(O)O | C3H7BO2
reactant | Cs2CO3 | 15.45 mmol, 5.082 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.52 mmol, 601 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-5-cyclopropylpyridine | 452 mg, 57% | ClC1=NC=C(C=C1)C1CC1 | C8H8ClN
